US07713982B2
b) (8-chloro-2,6-dioxo-1,2,6,7-tetrahydro-3H-purin-3-yl)acetonitrile
A solution of [8-chloro-2,6-dioxo-7-(2-propen-1-yl)-1,2,6,7-tetrahydro-3H-purin-3-yl]acetonitrile (0.084 g, 0.32 mmol) in THF (5 ml) was degassed by the successive application of vacuum and nitrogen pressure to the reaction mixture. The solution was subsequently treated with morpholine (0.3 ml, 3.4 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.03 g, 0.03 mmol). After 2 hours, the mixture was treated with 2M aqueous hydrochloric acid (3 ml) and chloroform (5 ml). The mixture was separated and the organic phase evaporated. The product was purified from the residue using mass-directed HPLC, to afford the title compound as a white solid (0.018 g, 25%). NMR δH (400 MHz, d6-DMSO) 4.95 (s, 2H), 11.49 (s, 1H), 14.63 (br. s, 1H); m/z 226 [MH+].

reactant | [8-chloro-2,6-dioxo-7-(2-propen-1-yl)-1,2,6,7-tetrahydro-3H-purin-3-yl]acetonitrile | 0.32 mmol, 0.084 g | ClC1=NC=2N(C(NC(C2N1CC=C)=O)=O)CC#N | C10H8ClN5O2
reactant | morpholine | 3.4 mmol, 0.3 ml | N1CCOCC1 | C4H9NO
reactant | hydrochloric acid | 2M, 3 ml | Cl | ClH
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 mmol, 0.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (8-chloro-2,6-dioxo-1,2,6,7-tetrahydro-3H-purin-3-yl)acetonitrile | 0.018 g, 25% | ClC1=NC=2N(C(NC(C2N1)=O)=O)CC#N | C7H4ClN5O2
